US05783701
A. Sodium 3-acetamidobenzenesulfonate
A solution of 118.6 mg (0.55 mmol) of 3-acetamidobenzenesulfonic acid in 0.5 mL of water was treated with 0.55 mL (0.55 mmol) of 1.0N NaOH at 0° C. After stirring at room temperature for 4 hours, the mixture was concentrated to dryness and used without subsequent purification.

reactant | 3-acetamidobenzenesulfonic acid | 0.55 mmol, 118.6 mg | C(C)(=O)NC=1C=C(C=CC1)S(=O)(=O)O | C8H9NO4S
reactant | NaOH | 0.55 mmol, 1.0N, 0.55 mL | [OH-].[Na+]
solvent | water | 0.5 mL | O | H2O
product | Sodium 3-acetamidobenzenesulfonate | C(C)(=O)NC=1C=C(C=CC1)S(=O)(=O)[O-].[Na+] | InChI=1S/C8H9NO4S.Na/c1-6(10)9-7-3-2-4-8(5-7)14(11,12)13;/h2-5H,1H3,(H,9,10)(H,11,12,13);/q;+1/p-1
